US08217032B2
8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,6-dihydro-benzo[i]phenanthridin-2-ol
To a round bottom flask add (5-fluoro-2-{6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl}-phenyl)-carbamic acid tert-butyl ester (0.060 g, 0.103 mmol), dichloromethane (1.25 mL), anisole (0.15 mL, 1.39 mmol) and trifluoroacetic acid (0.25 mL). Stir the reaction for 1.5 hour at ambient temperature. Add trifluoroacetic acid (2.0 mL) and sodium borohydride (0.024 g, 0.62 mmol) and stir the reaction at ambient temperature for 1.5 hours. Add more sodium borohydride (0.024 g, 0.62 mmol) and stir the reaction at ambient temperature an additional 2 hours. After aqueous work-up and purification LC/MS showed significant amounts of the (M-2) intermediate, so take this material up in acetic acid (3.0 mL) and to it add sodium cyanoborohydride (0.032 g, 0.51 mmol). Stir this mixture for 1.5 hours at ambient temperature. Add more sodium cyanoborohydride (0.032 g, 0.51 mmol) and stir an additional 1.5 hours at ambient temperature. Quench the reaction with saturated aqueous sodium bicarbonate. Extract the resulting aqueous mixture into ethyl acetate. Wash the combined extracts with saturated aqueous sodium bicarbonate, H2O and brine; then dry (sodium sulfate) and evaporate the filtrate in vacuo. Purify the resulting residue by radial chromatography over silica (5%-10% methanol gradient in dichloromethane) to provide 17 mg (35%) of the title compound: mass spectrum (ion spray) m/z=469 (M+H).

reactant | (5-fluoro-2-{6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl}-phenyl)-carbamic acid tert-butyl ester | 0.103 mmol, 0.060 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)F)C1=C(C2=CC=C(C=C2C=C1)O)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)=O | C35H37FN2O5
reactant | anisole | 1.39 mmol, 0.15 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | 0.62 mmol, 0.024 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.62 mmol, 0.024 g | [BH4-].[Na+]
reactant | sodium cyanoborohydride | 0.51 mmol, 0.032 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.51 mmol, 0.032 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 1.25 mL | ClCCl | CH2Cl2
product | 8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,6-dihydro-benzo[i]phenanthridin-2-ol | 17 mg, 35% | FC=1C=CC=2C=3C=CC4=C(C3C(NC2C1)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C4)O | C30H29FN2O2
